US07666866B2
1-Methyl-2-pyrrolecarboxylic acid (57.6 mg, 460 μmol) was dissolved in amylene stabilized chloroform (8 mL). Resin-supported carbodiimide (1.1 g, 0.85 mm ol/g, 920 μmol) was added. To the resin-acid slurry was added N3-(4-methoxybenzoyl)-N4-[4-methoxy-2-(3-aminopropoxy)benzoyl]-3,4-pyridinediamine (106 mg crude, 230 μmol) in amylene stabilized chloroform (5 mL). The vial was capped and the reaction was agitated overnight on an orbital platform shaker. The slurry was filtered. The filtrate was concentrated and then purified by semipreparative HPLC as described in Example 2-F to provide N3-(4-methoxybenzoyl)-N4-[4-methoxy-2-[3-(1-methylpyrrol-2-ylcarbonyl)aminopropoxy]benzoyl]-3,4-pyridinediamine (17.3 mg, 27%) as ivory needles.

reactant | 1-Methyl-2-pyrrolecarboxylic acid | 460 μmol, 57.6 mg | CN1C(=CC=C1)C(=O)O | C6H7NO2
reactant | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
reactant | carbodiimide | 920 μmol, 1.1 g | N=C=N | CH2N2
reactant | N3-(4-methoxybenzoyl)-N4-[4-methoxy-2-(3-aminopropoxy)benzoyl]-3,4-pyridinediamine | 230 μmol, 106 mg | COC1=CC=C(C(=O)NC=2C=NC=CC2NC(C2=C(C=C(C=C2)OC)OCCCN)=O)C=C1 | C24H26N4O5
reactant | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | amylene | CC=C(C)C | C5H10
product | N3-(4-methoxybenzoyl)-N4-[4-methoxy-2-[3-(1-methylpyrrol-2-ylcarbonyl)aminopropoxy]benzoyl]-3,4-pyridinediamine | 17.3 mg, 27% | COC1=CC=C(C(=O)NC=2C=NC=CC2NC(C2=C(C=C(C=C2)OC)OCCCNC(=O)C=2N(C=CC2)C)=O)C=C1 | C30H31N5O6
